US05367041
2-(3-Thienyl)-Ethyl Methanesulfonate
To a solution of 5.0 g (7.8×10-3 mol) of 2-(3-thienyl)-ethanol (Aldrich Chemical) in 10 ml of dry, freshly distilled pyridine was added 3.62 ml (1.2 equiv.) of methanesulfonyl chloride in 20 ml of pyridine at 5°-10° C. The addition was carried out gradually, over a period of about 15-20 min. The reaction mixture was stirred overnight at room temperature and was quenched by pouring into a separatory funnel containing water and ether. The layers were separated and the aqueous layer was extracted three times with ether. The combined organic extracts were extracted once with 10% hydrochloric acid, followed by water and drying over Na2SO4. Evaporation of the solvent afforded 5.3 g of a light brown oil (65% yield), and tlc (CHCl3) showed a single spot. Chromatographic purification on silica gel afforded a light yellow oil. Nmr (CDCl3, δ rel TMS) 2.9 s, 3 H; 3.1 t, 2 H; 4.4 t, 2 H; 7.0-7.4 m, 3 H. Ir (neat, ν, cm-1) 3100 w, 2930 w, 2920 w, 1415 w, 1355 s, 1335 s, 1245 w, 1173 s, 1080 w, 1055 w, 970 s, 955 s, 903 m, 850 m, 825 w, 795 s, 775 s, 740 w. MS, 206.0.

reactant | 2-(3-thienyl)-ethanol | 7.8×10-3 mol, 5.0 g | S1C=C(C=C1)CCO | C6H8OS
reactant | methanesulfonyl chloride | 3.62 ml, 1.2 equiv. | CS(=O)(=O)Cl | CH3ClO2S
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3-Thienyl)-Ethyl Methanesulfonate | 5.3 g, 65% yield | CS(=O)(=O)OCCC1=CSC=C1 | C7H10O3S2
